US05126427
2,6-Bis(4-methoxybenzoyl)naphthalene
A stirred reactor comprising a 750 ml sulfonation flask, thermometer, condenser and nitrogen inlet is charged with 25.3 g (0.1 mol) of naphthalene-2,6-dicarbonyl dichloride and 32.4 g (0.2 mol) of anisole in 200 ml of nitrobenzene and, with stirring, 26.6 g (0.2 mol) of aluminium chloride are added over 15 minutes at 12°-18° C. The reaction mixture is thereafter allowed to react for 90 minutes at 40° C., then cooled to room temperature and thoroughly mixed with 1.5 liters of water containing HCl. The resultant suspension is diluted with 1.2 liters of N-methylpyrrolidone, and the mixture is heated to 130° C. The clear solution so obtained is cooled and the crystallised product is isolated by filtration. The filter residue is vacuum dried at 130° C., giving 25.9 g (65.4% of theory) of the desired product, which melts at 251° C.

reactant | naphthalene-2,6-dicarbonyl dichloride | 0.1 mol, 25.3 g | C1=C(C=CC2=CC(=CC=C12)C(=O)Cl)C(=O)Cl | C12H6Cl2O2
reactant | anisole | 0.2 mol, 32.4 g | C1(=CC=CC=C1)OC | C7H8O
reactant | aluminium chloride | 0.2 mol, 26.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | nitrobenzene | 200 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | N-methylpyrrolidone | 1.2 liters | CN1C(CCC1)=O | C5H9NO
solvent | water | 1.5 liters | O | H2O
product | 2,6-Bis(4-methoxybenzoyl)naphthalene | COC1=CC=C(C(=O)C2=CC3=CC=C(C=C3C=C2)C(C2=CC=C(C=C2)OC)=O)C=C1 | C26H20O4
